US05500405
2-(Hydroxymethyl)-2-oxo-4-methyl-1,3,2-dioxaphosphorinan
5,5-dimethyl-2-(hydroxymethyl)-2-oxo-1,3,2-dioxaphosphorinan from 5,5-dimethyl-2-oxo-1,3,2-dioxaphosphorinan.

reactant | 5,5-dimethyl-2-(hydroxymethyl)-2-oxo-1,3,2-dioxaphosphorinan | CC1(COP(OC1)(=O)CO)C | C6H13O4P
reactant | 5,5-dimethyl-2-oxo-1,3,2-dioxaphosphorinan | CC1(COP(OC1)=O)C | C5H11O3P
product | 2-(Hydroxymethyl)-2-oxo-4-methyl-1,3,2-dioxaphosphorinan | OCP1(OCCC(O1)C)=O | C5H11O4P
